US06900215B2
3-Bromo-7-difluoromethylimidazo[1,2-α]pyrimidine (248 mg, 1.00 mmol) was coupled with 2′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile as described in Example 1 to give 5′-(7-difluoromethylimidazo[1,2-α]pyrimidin-3-yl)-2′-fluorobiphenyl-2-carbonitrile (180 mg, 49%) as a yellow powder: δH (400 MHz, CDCl3) 6.66 (1H, t, J 55), 7.29 (1H, d, J 7), 7.44 (1H, t, J 9), 7.54-7.74 (5H, m), 7.87 (1H, dd, J 8 and 1), 8.02 (1H, s), 9.00 (1H, d, J 7); m/z (ES+) 365 (M++H).

reactant | 3-Bromo-7-difluoromethylimidazo[1,2-α]pyrimidine | 1.00 mmol, 248 mg | BrC1=CN=C2N1C=CC(=N2)C(F)F | C7H4BrF2N3
reactant | 2′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | FC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=1C(=CC=CC1)C#N | C19H19BFNO2
product | 5′-(7-difluoromethylimidazo[1,2-α]pyrimidin-3-yl)-2′-fluorobiphenyl-2-carbonitrile | 180 mg, 49% | FC(C1=NC=2N(C=C1)C(=CN2)C=2C=CC(=C(C2)C=2C(=CC=CC2)C#N)F)F | C20H11F3N4
